US06897224B2
2-Amino-5-nitroquinoline
450 mg (2.2 mmol) of 2-chloro-5-nitroquinoline, 10 ml of 25% ammonia water and 10 ml of THF are stirred in a pressure vessel for 8 hours at 120° C. The batch is diluted with NaCl solution and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4) and concentrated by evaporation: 370 mg of product.

reactant | 2-chloro-5-nitroquinoline | 2.2 mmol, 450 mg | ClC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | ammonia water | 10 ml | O.N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | NaCl | [Na+].[Cl-]
product | 2-Amino-5-nitroquinoline | NC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C9H7N3O2
